US06583135B2
Preparation of 3-Benzoyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.517 g, 1.40 mmol), potassium carbonate (0.77 g, 5.60 mmol), phenylboronic acid (0.194 g, 1.54 mmole), tetrakis(triphenylphosphine)palladium (0.16 g, 0.14 mmol) in tetrahydrofuran (7.0 mL) and N,N-dimethylacetamide (7.0 mL) reacted in a manner similar to Preparation 1. Column chromatography (silica gel, 10-50% EtOAc/heptane) afforded 0.49 g (95%) of the title compound as a solid: mp 223-226° C.; 1H NMR (400 MHz, CDCl3) δ 8.25, 7.57-7.23, 7.18-7.12, 6.98-6.89, 4.02-3.93, 3.76-3.67, 3.65-3.56, 3.43-3.35, 3.18-3.12, 2.90-2.83, 2.66-2.58, 2.43-2.34; IR (drift) 3231, 3203, 1602, 1501, 1468, 1433, 1352, 1336, 1249, 786, 758, 746, 740, 706, 700 cm−1; MS (EI) m/z 366 (M+); Anal. Calcd for C25H22N2O: C, 81.94; H, 6.05; N, 7.64. Found: C, 81.75; H, 6.07; N, 7.61.

reactant | 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.40 mmol, 0.517 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | potassium carbonate | 5.60 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 1.54 mmole, 0.194 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 7.0 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.49 g, 95% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC=CC=C1 | C25H22N2O
